US06335459B1
N-Butyllithium (4.43 mL, 11.07 mmol) was added to a solution 2-methyl-2-propanol (1.0 mL, 10.53 mmol) in tetrahydrofuran (21 mL) at −10° C. under an argon atmosphere, and the mixture was stirred for 10 minutes. A solution of 4-(3-bromophenyl)butyric acid methyl ester (1.35 g, 5.27 mmol) in tetrahydrofuran (5.3 mL) was added dropwise at −10° C., and the mixture allowed to reach room temperature and stirred for 16 hours. Saturated ammonium chloride was added and the product extracted with ethyl acetate. The extract was dried over sodium sulfate and concentrated to dryness. Purification by flash chromatography, eluting with hexane/ethyl acetate (98:2), gave 4-(3-bromophenyl)butyric acid tert-butyl ester as a yellow oil (74%).

reactant | N-Butyllithium | 11.07 mmol, 4.43 mL | [Li+].CCC[CH2-]
reactant | 2-methyl-2-propanol | 10.53 mmol, 1.0 mL | CC(C)(C)O | C4H10O
reactant | 4-(3-bromophenyl)butyric acid methyl ester | 5.27 mmol, 1.35 g | COC(CCCC1=CC(=CC=C1)Br)=O | C11H13BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 21 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.3 mL | O1CCCC1 | C4H8O
product | 4-(3-bromophenyl)butyric acid tert-butyl ester | 74% | C(C)(C)(C)OC(CCCC1=CC(=CC=C1)Br)=O | C14H19BrO2
